US07893060B2
2-Methyl-4-(trifluoromethanesulfonyloxy)thiazole-5-carboxylic acid ethyl ester
To a solution of 4-hydroxy-2-methylthiazole-5-carboxylic acid ethyl ester (1.87 g, 10 mmol) in DCM (50 mL) at −78° C. under an atmosphere of N2 was added triethylamine (2.08 mL, 15 mmol), followed by dropwise addition of trifluoromethanesulfonic anhydride (1.85 mL, 11 mmol). The resulting mixture was stirred at −78° C. for 1 h then warmed to RT. The solvent was removed in vacuo and the resulting residue was purified by column chromatography to give the title compound as a yellow oil (2.86 g, 90%).

reactant | 4-hydroxy-2-methylthiazole-5-carboxylic acid ethyl ester | 10 mmol, 1.87 g | C(C)OC(=O)C1=C(N=C(S1)C)O | C7H9NO3S
reactant | triethylamine | 15 mmol, 2.08 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 11 mmol, 1.85 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-(trifluoromethanesulfonyloxy)thiazole-5-carboxylic acid ethyl ester | 2.86 g, 90% | C(C)OC(=O)C1=C(N=C(S1)C)OS(=O)(=O)C(F)(F)F | C8H8F3NO5S2
